US06448242B1
Preparation of 1,4-bis[[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]methyl]benzene dihydrochloride
Concentrated hydrochloric acid (0.055 ml; 0.66 mmol) was added to a solution of 1,4-bis[[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]methyl]benzene (127 mg; 0.16 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methylene chloride-methanol-diethyl ether to obtain the title compound as a pale yellow crystalline powder.

reactant | hydrochloric acid | 0.66 mmol, 0.055 ml | Cl | ClH
reactant | 1,4-bis[[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]methyl]benzene | 0.16 mmol, 127 mg | COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCN(CC1)CC1=CC=C(C=C1)CN1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O | C44H50N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-bis[[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]methyl]benzene dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCN(CC1)CC1=CC=C(C=C1)CN1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C44H50N4O8.2ClH/c1-51-37-27-35(28-38(52-2)43(37)55-5)11-7-9-13-41(49)47-23-19-45(20-24-47)31-33-15-17-34(18-16-33)32-46-21-25-48(26-22-46)42(50)14-10-8-12-36-29-39(53-3)44(56-6)40(30-36)54-4;;/h9-10,13-18,27-30H,19-26,31-32H2,1-6H3;2*1H/b13-9+,14-10+;;
